US08486965B2
Production of ethyl 3-hydroxy-1-methyl-4-nitro-1H-pyrrole-2-carboxylate
A mixture of nitroethyl acetate (1.80 g, 13.5 mmol), triethyl orthoformate (4.50 mL, 27.0 mmol) and acetic anhydride (3.57 mL, 37.8 mmol) was stirred at 120° C. for 1 hr, and then at 130° C. for 1 hr, and then at 140° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, and ethanol (25 mL), ethyl sarcosinate hydrochloride (2.03 g, 13.2 mmol) and triethylamine (1.83 mL, 13.2 mmol) were added thereto. After stirring at room temperature for 30 min, a 20% ethanol solution (6.7 mL) of sodium ethoxide was added thereto, and the mixture was further stirred at 70° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, the residue was acidified with 1N hydrochloric acid (100 mL), and the mixture was extracted with ethyl acetate (100 mL). The extract was washed with brine (50 mL), and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=98:2→70:30) to give the title compound (981 mg, 35%) as a yellow solid.

reactant | nitroethyl acetate | 13.5 mmol, 1.80 g | C(C)(=O)OCC[N+](=O)[O-] | C4H7NO4
reactant | triethyl orthoformate | 27.0 mmol, 4.50 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 37.8 mmol, 3.57 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl sarcosinate hydrochloride | 13.2 mmol, 2.03 g | Cl.N(C)CC(=O)OCC
reactant | triethylamine | 13.2 mmol, 1.83 mL | C(C)N(CC)CC | C6H15N
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 6.7 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl 3-hydroxy-1-methyl-4-nitro-1H-pyrrole-2-carboxylate | 981 mg, 35% | OC1=C(N(C=C1[N+](=O)[O-])C)C(=O)OCC | C8H10N2O5
